US07678797B2
1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-(4-benzylpiperazin-1-yl)-4-[(trifluoromethyl)sulfonyl]-1H-pyrazole-3-carbonitrile
To a mixture of 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-piperazin-1-yl-4-[(trifluoromethyl)sulfonyl]-1H-pyrazole-3-carbonitrile (0.40 g, 0.8 mmol) and diisopropylethylamin (0.13 g, 1.0 mmol) in dioxane (5 mL) benzylbromide (0.14 g, 0.8 mmol) was added and refluxed for 5 h. Extractive workup (heptane-ethyl acetate, water) and chromatography gave the title product (Compound 01-45, 0.31 g) as an oil; 1H-NMR: 2.30(4H), 3.19 (4H), 3.45 (2H), 7.25 (5H), 7.82 (2H); 19F-NMR: −64.1 (PhCF3); −79.6 ppm (SO2CF3).

reactant | 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-piperazin-1-yl-4-[(trifluoromethyl)sulfonyl]-1H-pyrazole-3-carbonitrile | 0.8 mmol, 0.40 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1N1CCNCC1)S(=O)(=O)C(F)(F)F)C#N | C16H11Cl2F6N5O2S
reactant | diisopropylethylamin | 1.0 mmol, 0.13 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dioxane | 0.8 mmol, 5 mL, 0.14 g | O1CCOCC1 | C4H8O2
reactant | heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
solvent | water | O | H2O
product | 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-(4-benzylpiperazin-1-yl)-4-[(trifluoromethyl)sulfonyl]-1H-pyrazole-3-carbonitrile | 0.31 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1N1CCN(CC1)CC1=CC=CC=C1)S(=O)(=O)C(F)(F)F)C#N | C23H17Cl2F6N5O2S
